* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1161.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 24
V2 N007 0 PULSE(0 5 0 100n 100n 2.5m 5m)
V3 N009 0 PULSE(0 5 0 100n 100n 2.5m 5m)
X§U1 0 N002 N007 N004 N009 MP_01 MP_02 MP_03 MP_04 MP_05 N001 MP_06 MP_07 MP_08 MP_09 N010 N008 N005 N003 LT1161
C1 N002 0 1000p
M§Q1 N003 N005 N006 N006 FDS5670
R1 N001 N003 .01
R2 N001 N008 .01
M§Q2 N008 N010 N011 N011 FDS5670
C2 N004 0 1000p
Rload1 0 N006 5
Rload2 0 N011 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 20m startup
.lib LT1161.sub
.backanno
.end
